US06436962B1
Step C: Preparation of 3-[3-(4-Phenyl-4-cyanopiperidin-1-yl)propyl]-5,5-bis(4-methylphenyl)-imidazolin-2,4-dione (1)
A solution of 4-phenyl-4-cyanopiperidine (328 mg, 1.76 mmol) and 3-bromopropyl-5,5-bis(4-methylphenyl)-imidazolin-2,4-dione (603 mg, 1.5 mmol) in dry dimethylformamide (3 mL) containing triethyl amine (0.28 mL, 2.0 mmol) was warmed at 50° C. for four hours. The cooled reaction mixture was diluted with ethyl acetate. This solution was washed with aq. Na2CO3, water (3×), and then dried over anhydrous Na2SO4,filtered through a pad of charcoal and the solvent evaporated. The residue was triturated with methanol to give pure crystalline product. m.p.: 157-159° C.

reactant | 4-phenyl-4-cyanopiperidine | 1.76 mmol, 328 mg | C1(=CC=CC=C1)C1(CCNCC1)C#N | C12H14N2
reactant | 3-bromopropyl-5,5-bis(4-methylphenyl)-imidazolin-2,4-dione | 1.5 mmol, 603 mg | BrCCCN1C(NC(C1(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)=O)=O | C20H21BrN2O2
reactant | triethyl amine | 2.0 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[3-(4-Phenyl-4-cyanopiperidin-1-yl)propyl]-5,5-bis(4-methylphenyl)-imidazolin-2,4-dione | C1(=CC=CC=C1)C1(CCN(CC1)CCCN1C(NC(C1=O)(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)=O)C#N | C32H34N4O2
